US07790756B2
To a solution of 2-(methylthio)-4-(1H-pyrazol-4-yl)pyrimidine (200 mg, 1 mmol) in dichloromethane (3 mL) and H2O (1 mL) was added 4-methoxybenzylchloride (200 mg, 1.28 mmol) at 0° C. The mixture was stirred at RT overnight. The organic layer was separated, washed with brine and concentrated in vacuo to give crude 4-(1-(4-methoxybenzyl)-1H-pyrazol-4-yl)-2-(methylthio)pyrimidine. 1H NMR (300 MHz, DMSO-d6) δ 8.58 (s, 1H), 8.50, (d, J=5.4 Hz, 1H), 8.16 (s, 1H), 7.40 (d, J=5.4 Hz, 1H), 7.27 (d, J=8.4 Hz, 2H), 7.22 (d, J=8.4 Hz, 2H), 5.30 (s, 2H), 3.72 (s, 3H), 2.51 (s, 3H); MS (ESI) m/z: 313 (M+H+).

reactant | 2-(methylthio)-4-(1H-pyrazol-4-yl)pyrimidine | 1 mmol, 200 mg | CSC1=NC=CC(=N1)C=1C=NNC1 | C8H8N4S
reactant | 4-methoxybenzylchloride | 1.28 mmol, 200 mg | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | H2O | 1 mL | O | H2O
product | 4-(1-(4-methoxybenzyl)-1H-pyrazol-4-yl)-2-(methylthio)pyrimidine | COC1=CC=C(CN2N=CC(=C2)C2=NC(=NC=C2)SC)C=C1 | C16H16N4OS
